Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
symptomatic fibroid uterus, left ovarian cyst
 
Major Surgical or Invasive Procedure:
exploratory laparotomy, lysis of adhesions, multiple myomectomy, 
left ovarian cystectomy

 
History of Present Illness:
Ms. ___ is a ___ gravida 0 with a long history of 
recurrent ovarian cyst and endometriosis who on ___, underwent a right salpingo-oophorectomy, left ovarian 
cystectomy for endometriomas.  In ___, she had a multiple 
myomectomies for symptomatic fibroid uterus.  The patient 
presents today for followup of unknown left adnexal cyst.

The patient notes that she has no abdominal pain.  She is simply 
experiencing increased bloatedness and pelvic pressure.  New 
symptoms, she has developed stress urinary incontinence with 
sneezing.  We discussed that this certainly can be related to 
this large adnexal cyst in addition to her overweightedness.

On ___, she had an ultrasound, which showed an 
anteverted uterus that measured 14.3 x 6.7 x 9.2 cm, slightly 
smaller than previous measurement on ___, where it 
measured 15.2 x 7.4 x 10.4 cm.  Multiple masses were consistent 
with uterine fibroids.  The dominant fibroid was seen at the
fundus and measured 3.3 x 3.3 x 3.5 cm.  The endometrium was 
distorted due to fibroids and not well evaluated.  An IUD was 
demonstrated within the endometrial cavity.  The patient is 
status post right oophorectomy, previously seen 10.7 cm left 
adnexal cyst again visualized and now measuring slightly larger 
at 10.8 x 10 cm.  It predominantly was thin walled; however,
there was one area with the appearance of an incomplete 
septation.  This either represented a hydrosalpinx or peritoneal 
inclusion cyst, less likely a cystadenoma.  There was no free 
pelvic fluid.  These findings were discussed with the patient. 
 
Past Medical History:
Past OB/GYN: The patient has regular menses. She has never had a 
pregnancy. She does have a history of genital warts. The patient 
has a long history of uterine fibroids, endometriosis, 
endometriomas. She is in a monogamous relationship with a female 
partner.

PMH:
___ rhinitis
Depression
Uterine fibroids
Endometriosis
Endometriomas
Pseudocholinesterase deficiency

PSH:
Medial collateral ligament release – ___
Abdominal MMY
 
Social History:
___
Family History:
Her mother had hypertension and died of colon cancer. Her father 
has hypertension and prostate cancer.
 
Physical Exam:
Discharge Physical Exam:
AVSS
Gen NAD
CV RRR
P CTAB
Abd soft, nondistended, appropriately tender to palpation, 
incision c/d/I
Ext WWP
 
Pertinent Results:
___ 07:25AM   WBC-5.9 RBC-4.30 HGB-13.4 HCT-40.5 MCV-94 
MCH-31.2 MCHC-33.1 RDW-11.9 RDWSD-41.6
___ 07:25AM   PLT COUNT-268
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing an exploratory laparotomy, lysis of adhesions, 
left ovarian cystectomy, abdominal myomectomy for symptomatic 
fibroid uterus and left ovarian cyst. Please see the operative 
report for full details.

Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV dilaudid and toradol. 
On post-operative day 1, her urine output was adequate so her 
foley was removed and she voided spontaneously. Her diet was 
advanced without difficulty and she was transitioned to PO 
oxycodone, Tylenol and ibuprofen (pain meds).

By post-operative day 2, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
Duloxetine 60mg QD
 
Discharge Medications:
1. DULoxetine 60 mg PO DAILY 
2. Ibuprofen 600 mg PO Q6H:PRN pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*50 Tablet Refills:*0
3. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN severe pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0
4. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*3

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
fibroid uterus, ovarian cyst

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ 
office with any questions or concerns. Please follow the 
instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.
* If you have staples, they will be removed at your follow-up 
visit.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___